US04294960
Phosphoryl chloride (1.764 g.) was added to a suspension of 2-(2-amino-4-thiazolyl)-2-ethoxyiminoacetic acid (syn isomer, 1.0 g.) in tetrahydrofuran (10 ml.) below 5° C. and stirred at the same temperature for 20 minutes. To the solution were added trimethylsilylacetamide (0.4 g.) and N,N-dimethylformamide (0.4 g.), and the solution was stirred below 5° C. for 40 minutes [Solution A]. On the other hand, trimethylsilylacetamide (3.5 g.) was added to a suspension of 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate (1.5 g.) in tetrahydrofuran (15 ml.), and stirred at room temperature for 1.5 hours. To the solution was added all at once the above Solution A at -20° C., and the solution was stirred at -5° to 0° C. for an hour. Water (20 ml.) was added to the resultant solution at -20° C., and the solution was adjusted to pH 7.5 with an aqueous solution of sodium bicarbonate. Tetrahydrofuran (70 ml.) and a saturated aqueous solution of sodium chloride (50 ml.) were added to the solution, and the solution was shaken sufficiently. The aqueous layer was separated and extracted with tetrahydrofuran. The tetrahydrofuran layer and extract were combined and washed with a saturated aqueous solution of sodium chloride. The solution was dried over magnesium sulfate and concentrated under reduced pressure. The residue was triturated with diisopropyl ether to give 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-ethoxyiminoacetamido]-3-cephem-4-carboxylate (syn isomer, 2.5 g.).

reactant | Phosphoryl chloride | 1.764 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2-(2-amino-4-thiazolyl)-2-ethoxyiminoacetic acid | 1.0 g | NC=1SC=C(N1)C(C(=O)O)=NOCC | C7H9N3O3S
reactant | trimethylsilylacetamide | 0.4 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | trimethylsilylacetamide | 3.5 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | 4-nitrobenzyl 7-amino-3-cephem-4-carboxylate | 1.5 g | NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H13N3O5S
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | sodium chloride | 50 ml | [Cl-].[Na+]
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | Tetrahydrofuran | 70 ml | O1CCCC1 | C4H8O
solvent | Water | 20 ml | O | H2O
solvent | N,N-dimethylformamide | 0.4 g | CN(C=O)C | C3H7NO
product | 4-nitrobenzyl 7-[2-(2-amino-4-thiazolyl)-2-ethoxyiminoacetamido]-3-cephem-4-carboxylate | 2.5 g | NC=1SC=C(N1)C(C(=O)NC1[C@@H]2N(C(=CCS2)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O)=NOCC | C21H20N6O7S2
